datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C(C)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[O]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[K][O+:21]([C:20]([O-:10])(OCC)OCC)CCCCCC>>[K][O:21]CCCCCC.[C:20](=[O:10])(OCC)OCC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CCCCCC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(CC)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C([H])C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])[H])CC)[O-:10])CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C([H])C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])C([H])C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)[H])CC.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])[H])CC 21=20;20,10=10"
"[H][O:10][H].C[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C([H])C(C)N1C>>[O-:10]C([H])C(C)N([C:20](C)=[O:21])C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(CC)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[O:10]([K])C([H])C(C)C(O)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(O)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O:20]=[C:21](O[H])OC1=CC=CC=C1.CC[O:10][Li]>>CC[O+:10]([Li])[C:21]([O-:20])(O[H])OC1=CC=CC=C1 10=21;21,20=20"
"[H][O:10]C(CC)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C)[NH]1 10=20;20,21=21"
"[NH:10](C)C(C1=C(C([CH:20](OC)=[O:21])O)C=CC=C1)[H]>>[O-:21][CH:20]2(OC)C(C3=C(C([NH+:10]2(C))[H])C=CC=C3)O 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21]C>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)[H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
